US09371331B2
To a solution of 1-(tetrahydro-2H-pyran-4-yl)ethanone (1.9 g, 14.8 mmol) in tetrahydrofuran (30 mL) was added (R)-2-methylpropane-2-sulfinamide (2.15 g, 17.8 mmol) and tetraethoxytitanium (5.06 g, 22.2 mmol) at 25° C. under N2. The reaction was refluxed for 7 hrs. Then the mixture was quenched by water, extracted with ethyl acetate and filtered. The crude product was purified by column chromatography on silica gel eluted with dichloromethane: methanol=200:1 to give (R,E)-2-methyl-N-(1-(tetrahydro-2H-pyran-4-yl)ethylidene)propane-2-sulfinamide (1.5 g, 44.1%) as a yellow oil.

reactant | 1-(tetrahydro-2H-pyran-4-yl)ethanone | 14.8 mmol, 1.9 g | O1CCC(CC1)C(C)=O | C7H12O2
reactant | (R)-2-methylpropane-2-sulfinamide | 17.8 mmol, 2.15 g | CC(C)(C)[S@@](=O)N | C4H11NOS
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
catalyst | tetraethoxytitanium | 22.2 mmol, 5.06 g | C(C)O[Ti](OCC)(OCC)OCC
product | (R,E)-2-methyl-N-(1-(tetrahydro-2H-pyran-4-yl)ethylidene)propane-2-sulfinamide | 1.5 g, 44.1% | CC(C)(C)[S@@](=O)/N=C(\C)/C1CCOCC1 | C11H21NO2S
